US07186729B2
Step 2: 1-(4-Chloro-2-methyl-phenyl)-piperazine
A solution of 4-(4-chloro-2-methyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (0.26 g, 0.837 mmol) in dichloromethane cooled at 0° C. was treated with trifluoroacetic acid (20%) and warmed to room temperature and stirred for 2 hours. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate and free based with 10% aqueous sodium bicarbonate. The organics were separated and dried over sodium sulfate and concentrated. The product was used without further purification ESI-MS m/z: 211 (M+1), UV retention time: 1.25 min.

reactant | 4-(4-chloro-2-methyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.837 mmol, 0.26 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)Cl)C | C16H23ClN2O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(4-Chloro-2-methyl-phenyl)-piperazine | ClC1=CC(=C(C=C1)N1CCNCC1)C | C11H15ClN2
